*|DSPF	1.5
*|DESIGN	nmos_cm_15x5x1_111_1
*|DATE	"Wed Jun 19 2025"
*|VENDOR	"Mentor Graphics Corporation"
*|PROGRAM	"Calibre xACT"
*|VERSION	"v2020.4_34.17"
*|DIVIDER	|
*|DELIMITER	:
*|BUSBIT	[]
* Corner Name: 12lp_11M_3Mx_4Cx_2Kx_2Gx_LB_nominal_detailed_25
* Nominal Temperature: 25C
* Circuit Temperature: 25C
*

* Integrated TICER reduction is not enabled.
* SHORT DELAY THRESHOLD: 2e-14
* Fill Mode: NG
* PEX REDUCE CC ABSOLUTE : disabled
* PEX REDUCE CC RATIO : disabled
* Delta transform mode : 344834

.subckt nmos_cm_15x5x1_111_1 d0 d1 s

* Net:s ----------------


R1 s s:3 7.644
R2 s s:5 5.46
R3 s:5 s:54 2.436
R4 s:5 MN1@0:s 14
R5 s:5 s:53 1.092
R6 s:5 MN1@0:s 14
R7 s:5 s:6 4.368
R8 s:5 MN1@0:s 14
R9 s:6 s:59 2.436
R10 s:6 MN1@1:s 14
R11 s:6 s:58 1.092
R12 s:6 MN1@1:s 14
R13 s:6 s:11 3.724
R14 s:6 MN1@1:s 14
R15 s:11 s:9 18.34
R16 s:11 s:34 1.008
R17 s:11 s:7 0.644
R18 s:7 s:64 2.436
R19 s:7 MN1@3:s 14
R20 s:7 s:63 1.092
R21 s:7 MN1@3:s 14
R22 s:7 s:31 3.276
R23 s:7 MN1@3:s 14
R24 s:63 s:62 3.528
R25 s:63 MN1@3:s 14
R26 s:62 s:61 3.528
R27 s:62 MN1@3:s 14
R28 s:61 s:26 3.024
R29 s:61 MN1@3:s 14
R30 s:64 s:65 3.528
R31 s:64 MN1@3:s 14
R32 s:65 s:27 3.024
R33 s:65 MN1@3:s 14
R34 s:9 s:35 1.288
R35 s:9 s:4 2.632
R36 s:9 s:29 3.276
R37 s:4 s:21 1.12
R38 s:4 MN1@0:b 14
R39 s:4 s:20 1.12
R40 s:4 MN1@0:b 14
R41 s:4 s:8 19.208
R42 s:4 MN1@0:b 14
R43 s:8 s:33 1.288
R44 s:8 s:10 18.34
R45 s:8 s:0 2.632
R46 s:0 s:13 1.12
R47 s:0 MN0@0:b 14
R48 s:0 s:12 1.12
R49 s:0 MN0@0:b 14
R50 s:0 s:28 5.908
R51 s:0 MN0@0:b 14
R52 s:10 s:32 1.008
R53 s:10 s:2 3.724
R54 s:10 s:3 0.644
R55 s:3 s:49 2.436
R56 s:3 MN0@3:s 14
R57 s:3 s:48 1.092
R58 s:3 MN0@3:s 14
R59 s:48 s:47 3.528
R60 s:48 MN0@3:s 14
R61 s:47 s:46 3.528
R62 s:47 MN0@3:s 14
R63 s:46 s:18 3.024
R64 s:46 MN0@3:s 14
R65 s:49 s:50 3.528
R66 s:49 MN0@3:s 14
R67 s:50 s:19 3.024
R68 s:50 MN0@3:s 14
R69 s:2 s:44 2.436
R70 s:2 MN0@1:s 14
R71 s:2 s:43 1.092
R72 s:2 MN0@1:s 14
R73 s:2 s:1 4.368
R74 s:2 MN0@1:s 14
R75 s:1 s:39 2.436
R76 s:1 MN0@0:s 14
R77 s:1 s:38 1.092
R78 s:1 MN0@0:s 14
R79 s:1 s:30 1.092
R80 s:1 MN0@0:s 14
R81 s:38 s:37 3.528
R82 s:38 MN0@0:s 14
R83 s:37 s:36 3.528
R84 s:37 MN0@0:s 14
R85 s:36 s:14 3.024
R86 s:36 MN0@0:s 14
R87 s:39 s:40 3.528
R88 s:39 MN0@0:s 14
R89 s:40 s:15 3.024
R90 s:40 MN0@0:s 14
R91 s:43 s:42 3.528
R92 s:43 MN0@1:s 14
R93 s:42 s:41 3.528
R94 s:42 MN0@1:s 14
R95 s:41 s:16 3.024
R96 s:41 MN0@1:s 14
R97 s:44 s:45 3.528
R98 s:44 MN0@1:s 14
R99 s:45 s:17 3.024
R100 s:45 MN0@1:s 14
R101 s:58 s:57 3.528
R102 s:58 MN1@1:s 14
R103 s:57 s:56 3.528
R104 s:57 MN1@1:s 14
R105 s:56 s:24 3.024
R106 s:56 MN1@1:s 14
R107 s:59 s:60 3.528
R108 s:59 MN1@1:s 14
R109 s:60 s:25 3.024
R110 s:60 MN1@1:s 14
R111 s:53 s:52 3.528
R112 s:53 MN1@0:s 14
R113 s:52 s:51 3.528
R114 s:52 MN1@0:s 14
R115 s:51 s:22 3.024
R116 s:51 MN1@0:s 14
R117 s:54 s:55 3.528
R118 s:54 MN1@0:s 14
R119 s:55 s:23 3.024
R120 s:55 MN1@0:s 14
R121 MN0@0:b MN0@1:b 0.01
R122 MN0@1:b MN0@2:b 0.01
R123 MN0@2:b MN0@3:b 0.01
R124 MN0@3:b MN0@4:b 0.01
R125 MN0@1:s MN0@2:s 0.01
R126 MN0@3:s MN0@4:s 0.01
R127 MN1@0:b MN1@1:b 0.01
R128 MN1@1:b MN1@2:b 0.01
R129 MN1@2:b MN1@3:b 0.01
R130 MN1@3:b MN1@4:b 0.01
R131 MN1@1:s MN1@2:s 0.01
R132 MN1@3:s MN1@4:s 0.01
C1 s:5 0 1.827e-14
C2 s:5 0 8.190000000000001e-15
C3 s:5 0 3.2760000000000004e-14
C4 s:6 0 1.827e-14
C5 s:6 0 8.190000000000001e-15
C6 s:6 0 2.793e-14
C7 s:11 0 1.3755e-13
C8 s:11 0 7.56e-15
C9 s:11 0 4.83e-15
C10 s:7 0 1.827e-14
C11 s:7 0 8.190000000000001e-15
C12 s:7 0 2.457e-14
C13 s:63 0 2.6460000000000002e-14
C14 s:62 0 2.6460000000000002e-14
C15 s:61 0 2.268e-14
C16 s:64 0 2.6460000000000002e-14
C17 s:65 0 2.268e-14
C18 s:9 0 9.66e-15
C19 s:9 0 1.974e-14
C20 s:9 0 2.457e-14
C21 s:4 0 8.400000000000001e-15
C22 s:4 0 8.400000000000001e-15
C23 s:4 0 1.4406000000000002e-13
C24 s:8 0 9.66e-15
C25 s:8 0 1.3755e-13
C26 s:8 0 1.974e-14
C27 s:0 0 8.400000000000001e-15
C28 s:0 0 8.400000000000001e-15
C29 s:0 0 4.431e-14
C30 s:10 0 7.56e-15
C31 s:10 0 2.793e-14
C32 s:10 0 4.83e-15
C33 s:3 0 1.827e-14
C34 s:3 0 8.190000000000001e-15
C35 s:48 0 2.6460000000000002e-14
C36 s:47 0 2.6460000000000002e-14
C37 s:46 0 2.268e-14
C38 s:49 0 2.6460000000000002e-14
C39 s:50 0 2.268e-14
C40 s:2 0 1.827e-14
C41 s:2 0 8.190000000000001e-15
C42 s:2 0 3.2760000000000004e-14
C43 s:1 0 1.827e-14
C44 s:1 0 8.190000000000001e-15
C45 s:1 0 8.190000000000001e-15
C46 s:38 0 2.6460000000000002e-14
C47 s:37 0 2.6460000000000002e-14
C48 s:36 0 2.268e-14
C49 s:39 0 2.6460000000000002e-14
C50 s:40 0 2.268e-14
C51 s:43 0 2.6460000000000002e-14
C52 s:42 0 2.6460000000000002e-14
C53 s:41 0 2.268e-14
C54 s:44 0 2.6460000000000002e-14
C55 s:45 0 2.268e-14
C56 s:58 0 2.6460000000000002e-14
C57 s:57 0 2.6460000000000002e-14
C58 s:56 0 2.268e-14
C59 s:59 0 2.6460000000000002e-14
C60 s:60 0 2.268e-14
C61 s:53 0 2.6460000000000002e-14
C62 s:52 0 2.6460000000000002e-14
C63 s:51 0 2.268e-14
C64 s:54 0 2.6460000000000002e-14
C65 s:55 0 2.268e-14


* Net:d0 ----------------


R133 d0 d0:40 1.092
R134 d0 d0:39 2.436
R135 d0 d0:9 2.828
R136 d0 d0:2 4.368
R137 d0:2 d0:45 1.092
R138 d0:2 MN0@4:d 14
R139 d0:2 d0:44 2.436
R140 d0:2 MN0@4:d 14
R141 d0:2 d0:1 4.368
R142 d0:2 MN0@4:d 14
R143 d0:2 d0:27 1.008
R144 d0:2 MN0@4:d 14
R145 d0:1 d0:40 1.092
R146 d0:1 MN0@2:d 14
R147 d0:1 d0:39 2.436
R148 d0:1 MN0@2:d 14
R149 d0:1 d0:9 2.828
R150 d0:1 MN0@2:d 14
R151 d0:9 d0:16 12.712
R152 d0:9 d0:28 1.008
R153 d0:9 d0:0 1.54
R154 d0:0 d0:35 1.092
R155 d0:0 MN0@0:d 14
R156 d0:0 d0:34 2.436
R157 d0:0 MN0@0:d 14
R158 d0:0 d0:26 1.008
R159 d0:0 MN0@0:d 14
R160 d0:34 d0:33 3.528
R161 d0:34 MN0@0:d 14
R162 d0:33 d0:10 3.024
R163 d0:33 MN0@0:d 14
R164 d0:35 d0:36 3.528
R165 d0:35 MN0@0:d 14
R166 d0:36 d0:37 3.528
R167 d0:36 MN0@0:d 14
R168 d0:37 d0:11 3.024
R169 d0:37 MN0@0:d 14
R170 d0:16 d0:3 1.12
R171 d0:3 d0:17 1.12
R172 d0:3 MN0@0:g 342
R173 d0:3 MN0@1:g 342
R174 d0:3 MN0@2:g 342
R175 d0:3 MN0@3:g 342
R176 d0:3 MN0@4:g 342
R177 d0:3 MN1@0:g 342
R178 d0:3 MN1@1:g 342
R179 d0:3 MN1@2:g 342
R180 d0:3 MN1@3:g 342
R181 d0:3 MN1@4:g 342
R182 d0:3 d0:24 4.144
R183 d0:3 MN0@0:g 342
R184 d0:3 MN0@1:g 342
R185 d0:3 MN0@2:g 342
R186 d0:3 MN0@3:g 342
R187 d0:3 MN0@4:g 342
R188 d0:3 MN1@0:g 342
R189 d0:3 MN1@1:g 342
R190 d0:3 MN1@2:g 342
R191 d0:3 MN1@3:g 342
R192 d0:3 MN1@4:g 342
R193 d0:3 d0:7 2.212
R194 d0:3 MN0@0:g 342
R195 d0:3 MN0@1:g 342
R196 d0:3 MN0@2:g 342
R197 d0:3 MN0@3:g 342
R198 d0:3 MN0@4:g 342
R199 d0:3 MN1@0:g 342
R200 d0:3 MN1@1:g 342
R201 d0:3 MN1@2:g 342
R202 d0:3 MN1@3:g 342
R203 d0:3 MN1@4:g 342
R204 d0:7 d0:30 1.008
R205 d0:7 d0:29 1.008
R206 d0:7 d0:4 1.316
R207 d0:4 d0:19 1.12
R208 d0:4 MN0@0:g 342
R209 d0:4 MN0@1:g 342
R210 d0:4 MN0@2:g 342
R211 d0:4 MN0@3:g 342
R212 d0:4 MN0@4:g 342
R213 d0:4 MN1@0:g 342
R214 d0:4 MN1@1:g 342
R215 d0:4 MN1@2:g 342
R216 d0:4 MN1@3:g 342
R217 d0:4 MN1@4:g 342
R218 d0:4 d0:18 1.12
R219 d0:4 MN0@0:g 342
R220 d0:4 MN0@1:g 342
R221 d0:4 MN0@2:g 342
R222 d0:4 MN0@3:g 342
R223 d0:4 MN0@4:g 342
R224 d0:4 MN1@0:g 342
R225 d0:4 MN1@1:g 342
R226 d0:4 MN1@2:g 342
R227 d0:4 MN1@3:g 342
R228 d0:4 MN1@4:g 342
R229 d0:4 d0:5 18.312
R230 d0:4 MN0@0:g 342
R231 d0:4 MN0@1:g 342
R232 d0:4 MN0@2:g 342
R233 d0:4 MN0@3:g 342
R234 d0:4 MN0@4:g 342
R235 d0:4 MN1@0:g 342
R236 d0:4 MN1@1:g 342
R237 d0:4 MN1@2:g 342
R238 d0:4 MN1@3:g 342
R239 d0:4 MN1@4:g 342
R240 d0:5 d0:21 1.12
R241 d0:5 MN0@0:g 342
R242 d0:5 MN0@1:g 342
R243 d0:5 MN0@2:g 342
R244 d0:5 MN0@3:g 342
R245 d0:5 MN0@4:g 342
R246 d0:5 MN1@0:g 342
R247 d0:5 MN1@1:g 342
R248 d0:5 MN1@2:g 342
R249 d0:5 MN1@3:g 342
R250 d0:5 MN1@4:g 342
R251 d0:5 d0:20 1.12
R252 d0:5 MN0@0:g 342
R253 d0:5 MN0@1:g 342
R254 d0:5 MN0@2:g 342
R255 d0:5 MN0@3:g 342
R256 d0:5 MN0@4:g 342
R257 d0:5 MN1@0:g 342
R258 d0:5 MN1@1:g 342
R259 d0:5 MN1@2:g 342
R260 d0:5 MN1@3:g 342
R261 d0:5 MN1@4:g 342
R262 d0:5 d0:8 2.212
R263 d0:5 MN0@0:g 342
R264 d0:5 MN0@1:g 342
R265 d0:5 MN0@2:g 342
R266 d0:5 MN0@3:g 342
R267 d0:5 MN0@4:g 342
R268 d0:5 MN1@0:g 342
R269 d0:5 MN1@1:g 342
R270 d0:5 MN1@2:g 342
R271 d0:5 MN1@3:g 342
R272 d0:5 MN1@4:g 342
R273 d0:8 d0:32 1.008
R274 d0:8 d0:31 1.008
R275 d0:8 d0:6 1.316
R276 d0:6 d0:23 1.12
R277 d0:6 MN0@0:g 342
R278 d0:6 MN0@1:g 342
R279 d0:6 MN0@2:g 342
R280 d0:6 MN0@3:g 342
R281 d0:6 MN0@4:g 342
R282 d0:6 MN1@0:g 342
R283 d0:6 MN1@1:g 342
R284 d0:6 MN1@2:g 342
R285 d0:6 MN1@3:g 342
R286 d0:6 MN1@4:g 342
R287 d0:6 d0:22 1.12
R288 d0:6 MN0@0:g 342
R289 d0:6 MN0@1:g 342
R290 d0:6 MN0@2:g 342
R291 d0:6 MN0@3:g 342
R292 d0:6 MN0@4:g 342
R293 d0:6 MN1@0:g 342
R294 d0:6 MN1@1:g 342
R295 d0:6 MN1@2:g 342
R296 d0:6 MN1@3:g 342
R297 d0:6 MN1@4:g 342
R298 d0:6 d0:25 4.144
R299 d0:6 MN0@0:g 342
R300 d0:6 MN0@1:g 342
R301 d0:6 MN0@2:g 342
R302 d0:6 MN0@3:g 342
R303 d0:6 MN0@4:g 342
R304 d0:6 MN1@0:g 342
R305 d0:6 MN1@1:g 342
R306 d0:6 MN1@2:g 342
R307 d0:6 MN1@3:g 342
R308 d0:6 MN1@4:g 342
R309 d0:39 d0:38 3.528
R310 d0:39 MN0@2:d 14
R311 d0:38 d0:12 3.024
R312 d0:38 MN0@2:d 14
R313 d0:40 d0:41 3.528
R314 d0:40 MN0@2:d 14
R315 d0:41 d0:42 3.528
R316 d0:41 MN0@2:d 14
R317 d0:42 d0:13 3.024
R318 d0:42 MN0@2:d 14
R319 d0:44 d0:43 3.528
R320 d0:44 MN0@4:d 14
R321 d0:43 d0:14 3.024
R322 d0:43 MN0@4:d 14
R323 d0:45 d0:46 3.528
R324 d0:45 MN0@4:d 14
R325 d0:46 d0:47 3.528
R326 d0:46 MN0@4:d 14
R327 d0:47 d0:15 3.024
R328 d0:47 MN0@4:d 14
R329 MN0@0:d MN0@1:d 0.01
R330 MN0@2:d MN0@3:d 0.01
C66 d0:2 0 8.190000000000001e-15
C67 d0:2 0 1.827e-14
C68 d0:2 0 3.2760000000000004e-14
C69 d0:2 0 7.56e-15
C70 d0:1 0 8.190000000000001e-15
C71 d0:1 0 1.827e-14
C72 d0:1 0 2.1210000000000002e-14
C73 d0:9 0 9.534023127725253e-14
C74 d0:9 0 7.56e-15
C75 d0:9 0 1.155e-14
C76 d0:0 0 8.190000000000001e-15
C77 d0:0 0 1.827e-14
C78 d0:0 0 7.56e-15
C79 d0:34 0 2.6460000000000002e-14
C80 d0:33 0 2.268e-14
C81 d0:35 0 2.6460000000000002e-14
C82 d0:36 0 2.6460000000000002e-14
C83 d0:37 0 2.268e-14
C84 d0:16 0 8.400000000000001e-15
C85 d0:3 0 8.400000000000001e-15
C86 d0:3 0 3.108e-14
C87 d0:3 0 1.6590000000000002e-14
C88 d0:7 0 7.56e-15
C89 d0:7 0 7.56e-15
C90 d0:7 0 9.87e-15
C91 d0:4 0 8.400000000000001e-15
C92 d0:4 0 8.400000000000001e-15
C93 d0:4 0 1.3734e-13
C94 d0:5 0 8.400000000000001e-15
C95 d0:5 0 8.400000000000001e-15
C96 d0:5 0 1.6590000000000002e-14
C97 d0:8 0 7.56e-15
C98 d0:8 0 7.56e-15
C99 d0:8 0 9.87e-15
C100 d0:6 0 8.400000000000001e-15
C101 d0:6 0 8.400000000000001e-15
C102 d0:6 0 3.108e-14
C103 d0:39 0 2.6460000000000002e-14
C104 d0:38 0 2.268e-14
C105 d0:40 0 2.6460000000000002e-14
C106 d0:41 0 2.6460000000000002e-14
C107 d0:42 0 2.268e-14
C108 d0:44 0 2.6460000000000002e-14
C109 d0:43 0 2.268e-14
C110 d0:45 0 2.6460000000000002e-14
C111 d0:46 0 2.6460000000000002e-14
C112 d0:47 0 2.268e-14


* Net:d1 ----------------


R331 d1 d1:21 1.092
R332 d1 d1:20 2.436
R333 d1 d1:3 2.828
R334 d1 d1:2 4.368
R335 d1:2 d1:26 1.092
R336 d1:2 MN1@4:d 14
R337 d1:2 d1:25 2.436
R338 d1:2 MN1@4:d 14
R339 d1:2 d1:1 4.368
R340 d1:2 MN1@4:d 14
R341 d1:2 d1:11 1.008
R342 d1:2 MN1@4:d 14
R343 d1:1 d1:21 1.092
R344 d1:1 MN1@2:d 14
R345 d1:1 d1:20 2.436
R346 d1:1 MN1@2:d 14
R347 d1:1 d1:3 2.828
R348 d1:1 MN1@2:d 14
R349 d1:3 d1:13 1.008
R350 d1:3 d1:12 1.008
R351 d1:3 d1:0 1.54
R352 d1:0 d1:16 1.092
R353 d1:0 MN1@0:d 14
R354 d1:0 d1:15 2.436
R355 d1:0 MN1@0:d 14
R356 d1:0 d1:10 1.008
R357 d1:0 MN1@0:d 14
R358 d1:15 d1:14 3.528
R359 d1:15 MN1@0:d 14
R360 d1:14 d1:4 3.024
R361 d1:14 MN1@0:d 14
R362 d1:16 d1:17 3.528
R363 d1:16 MN1@0:d 14
R364 d1:17 d1:18 3.528
R365 d1:17 MN1@0:d 14
R366 d1:18 d1:5 3.024
R367 d1:18 MN1@0:d 14
R368 d1:20 d1:19 3.528
R369 d1:20 MN1@2:d 14
R370 d1:19 d1:6 3.024
R371 d1:19 MN1@2:d 14
R372 d1:21 d1:22 3.528
R373 d1:21 MN1@2:d 14
R374 d1:22 d1:23 3.528
R375 d1:22 MN1@2:d 14
R376 d1:23 d1:7 3.024
R377 d1:23 MN1@2:d 14
R378 d1:25 d1:24 3.528
R379 d1:25 MN1@4:d 14
R380 d1:24 d1:8 3.024
R381 d1:24 MN1@4:d 14
R382 d1:26 d1:27 3.528
R383 d1:26 MN1@4:d 14
R384 d1:27 d1:28 3.528
R385 d1:27 MN1@4:d 14
R386 d1:28 d1:9 3.024
R387 d1:28 MN1@4:d 14
R388 MN1@0:d MN1@1:d 0.01
R389 MN1@2:d MN1@3:d 0.01
R390 MN1@4:d MN2@0:d 0.01
C113 d1:2 0 8.190000000000001e-15
C114 d1:2 0 1.827e-14
C115 d1:2 0 3.2760000000000004e-14
C116 d1:2 0 7.56e-15
C117 d1:1 0 8.190000000000001e-15
C118 d1:1 0 1.827e-14
C119 d1:1 0 2.1210000000000002e-14
C120 d1:3 0 7.56e-15
C121 d1:3 0 7.56e-15
C122 d1:3 0 1.155e-14
C123 d1:0 0 8.190000000000001e-15
C124 d1:0 0 1.827e-14
C125 d1:0 0 7.56e-15
C126 d1:15 0 2.6460000000000002e-14
C127 d1:14 0 2.268e-14
C128 d1:16 0 2.6460000000000002e-14
C129 d1:17 0 2.6460000000000002e-14
C130 d1:18 0 2.268e-14
C131 d1:20 0 2.6460000000000002e-14
C132 d1:19 0 2.268e-14
C133 d1:21 0 2.6460000000000002e-14
C134 d1:22 0 2.6460000000000002e-14
C135 d1:23 0 2.268e-14
C136 d1:25 0 2.6460000000000002e-14
C137 d1:24 0 2.268e-14
C138 d1:26 0 2.6460000000000002e-14
C139 d1:27 0 2.6460000000000002e-14
C140 d1:28 0 2.268e-14


xMN0@0 MN0@0:d MN0@0:g MN0@0:s MN0@0:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@1 MN0@1:d MN0@1:g MN0@1:s MN0@1:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@2 MN0@2:d MN0@2:g MN0@2:s MN0@2:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@3 MN0@3:d MN0@3:g MN0@3:s MN0@3:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN0@4 MN0@4:d MN0@4:g MN0@4:s MN0@4:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@0 MN1@0:d MN1@0:g MN1@0:s MN1@0:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@1 MN1@1:d MN1@1:g MN1@1:s MN1@1:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@2 MN1@2:d MN1@2:g MN1@2:s MN1@2:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@3 MN1@3:d MN1@3:g MN1@3:s MN1@3:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1
xMN1@4 MN1@4:d MN1@4:g MN1@4:s MN1@4:b nfet m=1 l=1.4e-08 nfin=15 nf=1 par=1 par_nf=1 asej=8.91e-15 adej=8.91e-15 psej=1.78e-06 pdej=1.78e-06 pdevdops=1 pdevlgeos=1 pdevwgeos=1psw_acv_sign=1 plnest=1 pldist=1 plorient=0 cpp=7.8e-08 fpitch=4.8e-08 xpos=-99 ypos=-99 ptwell=0sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 u0mult_fet=1 lle_sa=71e-9 lle_sb=71e-9lle_rxrxa=78e-9 lle_rxrxb=78e-9 lle_rxrxn=192e-9 lle_rxrxs=192e-9 lle_pcrxn=55e-9 lle_pcrxs=55e-9lle_nwa=2e-6 lle_nwb=2e-6 lle_nwn=192e-9 lle_nws=192e-9 lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=27e-9 dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0nsig_dop2=0 nsig_dibl=0 nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3 analog=-1 nf_pex=1

.end